US05728835
3-Methoxy-N-(2-pyridyl)benzamide
Using 2-aminopyridine (670 mg, 7.12 mmol) and m-anisoyl chloride (1.2 ml, 8.55 mmol), the procedure of Reference Example 13 was repeated to obtain 341 mg (21.0%) of the title compound in the form of light yellow oil.

reactant | 2-aminopyridine | 7.12 mmol, 670 mg | NC1=NC=CC=C1 | C5H6N2
reactant | m-anisoyl chloride | 8.55 mmol, 1.2 ml | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
product | 3-Methoxy-N-(2-pyridyl)benzamide | 341 mg, 21.0% | COC=1C=C(C(=O)NC2=NC=CC=C2)C=CC1 | C13H12N2O2
